US04057556
A mixture of 2-hydroxy-3-[N-[(4-methylphenyl)sulfonyl]-amino]-2,4,6-cycloheptatrien-1-one (14.5 g), potassium carbonate (12.5 g), dimethyl sulfate (12.5 g) and 2-butanone (145 ml) is heated at reflux for 1 hour. The mixture is filtered and the precipitate is washed with water and suspended in ethyl actate. Hydrochloric acid (10%) is added until the solution is acidic. The organic phase is collected and dried over sodium sulfate. Evaporation of the solvent and crystallization of the residue from ethyl acetate-hexane gives 2-methoxy-7-[N-[(4-methylphenyl)sulfonyl]amino]-2,4,6-cycloheptatrien-1-one, mp 163°-164° C. The above filtrate is evaporated and the residue is subjected to chromatography on silica gel using ethyl acetate-hexane (3:1). Evaporation of the eluates are crystallization of the residue from ethyl acetate gives 2-methoxy-3-[N-[(4-methylphenyl)sulfonyl]-N-methylamino]-2,4,6-cycloheptatrien-1-one, mp 101°-102° C and 2-methoxy-7-[N-[(4-methylphenyl)sulfonyl]-N-methylamino]-2,4,6-cycloheptatrien-1-one, mp 94.5° C.

reactant | 2-hydroxy-3-[N-[(4-methylphenyl)sulfonyl]-amino]-2,4,6-cycloheptatrien-1-one | 14.5 g | OC=1C(C=CC=CC1NS(=O)(=O)C1=CC=C(C=C1)C)=O | C14H13NO4S
reactant | potassium carbonate | 12.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 12.5 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | 2-butanone | 145 ml | CC(CC)=O | C4H8O
product | 2-methoxy-7-[N-[(4-methylphenyl)sulfonyl]amino]-2,4,6-cycloheptatrien-1-one | COC=1C(C(=CC=CC1)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C15H15NO4S
